Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
HD initiation
attach
 
Pertinent Results:
ADMISSION LABS:
---------------
___ 05:40PM BLOOD WBC-6.4 RBC-3.01* Hgb-10.0* Hct-29.8* 
MCV-99* MCH-33.2* MCHC-33.6 RDW-12.7 RDWSD-45.6 Plt ___
___ 05:40PM BLOOD Neuts-79.5* Lymphs-10.8* Monos-8.3 
Eos-0.3* Baso-0.6 Im ___ AbsNeut-5.07 AbsLymp-0.69* 
AbsMono-0.53 AbsEos-0.02* AbsBaso-0.04
___ 05:40PM BLOOD ___ PTT-33.8 ___
___ 05:40PM BLOOD Glucose-110* UreaN-102* Creat-7.0* Na-140 
K-4.3 Cl-108 HCO3-13* AnGap-18
___ 05:40PM BLOOD ALT-25 AST-23 AlkPhos-94 TotBili-0.6
___ 05:40PM BLOOD proBNP-3413*
___ 05:40PM BLOOD Albumin-3.9 Calcium-9.2 Phos-5.7* Mg-2.6
___ 05:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 10:36AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 10:36AM BLOOD HCV Ab-NEG
___ 05:58PM BLOOD ___ pO2-74* pCO2-26* pH-7.38 
calTCO2-16* Base XS--7
___ 05:58PM BLOOD Lactate-1.1

IMAGING:
--------
CXR PA/LAT ___:
FINDINGS:  
AP upright and lateral views of the chest provided.  Low lung 
volumes.  
Pulmonary vascular congestion is noted with mild cephalization 
and possible mild interstitial pulmonary edema.  No large 
effusion or pneumothorax.  No convincing evidence for pneumonia. 
 Cardiomediastinal silhouette appears stable.  Bony structures 
are intact. 
IMPRESSION:  
Congestion with possible mild interstitial pulmonary edema.  No 
convincing 
evidence for pneumonia. 

KUB ___:
IMPRESSION:  
1.  Course, nodular, and heterogeneous hepatic architecture, 
consistent with cirrhosis. 
2.  3.0 x 1.1 cm suspicious focal area seen on a few views in 
segment ___ of the right lobe that is new in comparison to 
prior, but is an equivocal 
finding.  Recommend 3 month follow-up ultrasound, or follow-up 
with MRI or 
multiphasic CT. 
3.  Splenomegaly. 
4.  Moderate ascites. 
5.  Bilateral simple renal cysts, the largest of which is in the 
right kidney and measures 6.7 x 6.6 x 4.5 cm. 
  
RECOMMENDATION(S):  Three-month follow-up ultrasound of the 3.0 
x 1.1 cm 
suspicious focal area in the right hepatic lobe, or follow-up 
with MRI or 
multiphasic CT. 

DISCHARGE LABS:
---------------
___ 07:00AM BLOOD WBC-6.9 RBC-2.51* Hgb-8.3* Hct-25.3* 
MCV-101* MCH-33.1* MCHC-32.8 RDW-12.9 RDWSD-48.0* Plt ___
___ 07:00AM BLOOD Glucose-91 UreaN-69* Creat-5.6* Na-136 
K-4.6 Cl-104 HCO3-17* AnGap-15
___ 07:00AM BLOOD ALT-27 AST-33 LD(LDH)-346* AlkPhos-116 
TotBili-0.4
___ 07:00AM BLOOD Calcium-9.0 Phos-3.8 Mg-2.6
 
Brief Hospital Course:
SUMMARY
#ERROR!
___ man with chronic kidney disease from crescentic IgA 
nephropathy with new AV fistula (not on dialysis) cryptogenic 
cirrhosis getting monthly paracenteses, currently listed for 
dual liver and kidney transplant, and interstitial lung disease 
who presents with confusion as a transfer from ___ 
ED concerning for uremic and hepatic encephalopathy. On arrival 
to our facility, his encephalopathy resolved with frequent 
lactulose. He was started on dialysis while inpatient with 
previously placed AV fistula. 

TRANSITIONAL ISSUES:
#ERROR!

Medication changes:
New medications: 
[ ] lactulose 30mL TID or as needed to maintain 3 bowel 
movements per day
[ ] Rifaximin 550mg BID. Prior auth was confirmed while 
inpatient 

Stopped medications: 
- Furosemide 

Changed medications: 
- Metoprolol succinate 100mg --> 50mg qdaily

Hepatology:
[ ] Repeat right upper quadrant ultrasound in 3 months to 
follow-up hepatic lobe lesion 

PCP
[ ] Hepatitis B nonimmune. Recommend initiation of hepatitis B 
series 
[ ] Recommend B12 levels for macrocytic anemia

ACUTE ISSUES:
#ERROR!
#Encephalopathy
Presented with encephalopathy to ___ emergency department, 
transferred to our facility as patient is listed here for kidney 
and liver transplant. His encephalopathy was felt to be due to 
mixed uremia and hepatic encephalopathy, and resolved with oral 
lactulose administration. 

#ESRD
#Crescentic IgA nephropathy, listed for renal transplant
#Metabolic acidosis
He has had progressive renal failure from crescentic IgA 
nephropathy and has previously been on cyclophosphamide and 
prednisone in ___, which was discontinued in the setting of 
profound anemia, fatigue, and muscle wasting. In the setting of 
worsening acidemia, he was previously on sodium bicarbonate but 
this was discontinued due to fluid retention. This was restarted 
on this admission for metabolic acidosis. Lasix was discontinued 
on admission to allow for volume removal with hemodialysis. PPD 
was read as negative. He is hepatitis B nonimmune. He has had an 
AV fistula previously placed in the outpatient setting, and so 
was started on intermittent HD with HD runs on ___ and ___ 
while inpatient, with plan for ongoing ___ HD at 3:30pm. 

# Cirrhosis, cryptogenic, listed for liver transplant
Admission MELD 21. Reportedly last EGD ___ showed GAVE 
and no esophageal varices. No apparent history of SBP or major 
bleeds. He gets LVP approximately once per month, last two weeks 
prior to presentation. Had a diagnostic paracentesis in our ED 
and did not meet criteria for SBP. Abdominal ultrasound on 
admission showed moderate ascites with R hepatic lobe with 
recommendation for 3 month followup. 

#Thrombocytopenia
Platetlet count ranged from 100-150 during admission. This is 
lower than his baseline plt counts. We attributed this to 
worsening of his liver disease

CHRONIC ISSUES:
#ERROR!

#Hypertension
Amlodipine continued at home dose. Metoprolol was decreased from 
100 to 50mg qdaily to allow for blood pressure room for 
hemodialysis
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO DAILY 
2. amLODIPine 5 mg PO DAILY 
3. eszopiclone 3 mg oral QHS 
4. Furosemide 60 mg PO DAILY 
5. Metoprolol Succinate XL 100 mg PO DAILY 
6. sevelamer CARBONATE 800 mg PO TID W/MEALS 

 
Discharge Medications:
1.  Lactulose 30 mL PO TID:PRN HE  
2.  rifAXIMin 550 mg PO BID  
3.  Metoprolol Succinate XL 50 mg PO DAILY  
4.  Acyclovir 400 mg PO DAILY  
5.  amLODIPine 5 mg PO DAILY  
6.  eszopiclone 3 mg oral QHS  
7.  sevelamer CARBONATE 800 mg PO TID W/MEALS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Hepatic Encephalopathy
#End Stage Renal Disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted to the hospital because you were more 
confused at home, along with having nausea and vomiting
 
What was done for me while I was in the hospital?  
- You were given medications to help with your confusion which 
we thought was due to both liver and kidney problems
- You were started on dialysis and had 3 sessions that you 
tolerated well 

What should I do when I leave the hospital?  
- Your next session for dialysis will be 
 
Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___